US04215048
Following the procedure for the preparation of (1RS,4SR,5RS)-4-(4-carbomethoxypentyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol, but substituting (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane for (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol, (1RS,4SR,5RS)-4-(4-carbomethoxypentyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane is obtained.

reactant | (1RS,4SR,5RS)-4-(4-carbomethoxypentyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol | C(=O)(OC)C(CCCC1(OCC2(CCC1O2)CCO)C)C | C16H28O5
reactant | (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol | CS(=O)(=O)OCCCC1(OCC2(CCC1O2)CCO)C | C13H24O6S
product | (1RS,4SR,5RS)-4-(4-carbomethoxypentyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane | C(=O)(OC)C(CCCC1(OCC2(CCC1O2)C=C)C)C | C16H26O4
